US06028074
(b) 5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
In accordance with the teaching of German Patent No. 63,381, 1-(chloromethyl)-naphthalene (2.2 g), potassium carbonate (1.6 g) and 5-methyl-7-(2-methylpropyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (2.5 g) were combined in acetone (40 ml) and heated under reflux for 3 hours and then cooled to ambient temperature. Water (200 ml) was added and the precipitated solid was collected by filtration. The solid was triturated with isohexane and then dried in vacuo to give the title compound (3.64 g).

reactant | 1-(chloromethyl)-naphthalene | 2.2 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methyl-7-(2-methylpropyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.5 g | CN1C(N(C=2C(C1=O)=CNN2)CC(C)C)=O | C10H14N4O2
reactant | Water | 200 ml | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-Methyl-7-(2-methylpropyl)-2-(1-naphthalenylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 3.64 g | CN1C(N(C=2C(C1=O)=CN(N2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C21H22N4O2
